US09388189B2
b) 3-Bromo-5-(difluoromethoxy)pyridine
A mixture of 5-bromopyridin-3-ol (3.7 g, 21 mmol) and potassium carbonate (8.8 g, 64 mmol) in DMF (50 ml) was treated with 2-chloro-2,2-difluoroacetic acid (2.16 ml, 25 mmol) and the reaction mixture was heated at 100° C. overnight. Further potassium carbonate (4.4 g, 32 mmol) and 2-chloro-2,2-difluoroacetic acid (1.08 ml, 12.5 mmol) were added and the reaction mixture stirred at 100° C. overnight. Water and ethyl acetate were added and the organic phase was washed with brine, dried over magnesium sulphate and the solvent was removed under vacuum. The resulting crude was purified by flash chromatography using SP1® Purification System (0% to 15% in 25 CV, hexane-ethyl acetate) to obtain 0.81 g (17% yield) of the title compound. Purity: 100%

reactant | 5-bromopyridin-3-ol | 21 mmol, 3.7 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | potassium carbonate | 64 mmol, 8.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-2,2-difluoroacetic acid | 25 mmol, 2.16 ml | ClC(C(=O)O)(F)F | C2HClF2O2
reactant | potassium carbonate | 32 mmol, 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-2,2-difluoroacetic acid | 12.5 mmol, 1.08 ml | ClC(C(=O)O)(F)F | C2HClF2O2
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-(difluoromethoxy)pyridine | 0.81 g, 17% yield | BrC=1C=NC=C(C1)OC(F)F | C6H4BrF2NO
